US08895761B2
To a stirred mixture of 4-bromo-2-ethylaniline (80 g, 0.4 mol) in distilled water (400 ml) is added concentrated sulphuric acid (80 ml), followed by brief heating to 60° C. for 1 hour until dissolution is complete. The mixture is allowed to cool to room temperature then further cooled to approximately 0° C. in an ice/salt bath. To this slurry is added an aqueous solution of sodium nitrite (28 g, 0.4 mol) in distilled water (140 ml) dropwise over 15 minutes, maintaining the temperature below 5° C., followed by additional stirring for 30 minutes. The reaction mixture is allowed to come to room temperature and then a solution of aqueous potassium iodide (199 g, 1.2 mol) in distilled water (200 ml) is added dropwise at room temperature. After the addition is complete the solution is briefly heated to 80° C. then allowed to cool to room temperature again. The reaction mixture is extracted with ethyl acetate (1000 ml×3) and the organic phase is washed with 1M aqueous hydrochloric acid (500 ml) and aqueous sodium thiosulfate (2×250 ml). The organic phase is dried over anhydrous sodium sulphate, filtered and the filtrate is concentrated under reduced pressure. The residue is purified by column chromatography on silica gel to give 4-bromo-2-ethyl-1-iodobenzene (84.6 g) as an orange liquid.

reactant | 4-bromo-2-ethylaniline | 0.4 mol, 80 g | BrC1=CC(=C(N)C=C1)CC | C8H10BrN
reactant | sulphuric acid | 80 ml | S(O)(O)(=O)=O | H2O4S
reactant | sodium nitrite | 0.4 mol, 28 g | N(=O)[O-].[Na+]
reactant | potassium iodide | 1.2 mol, 199 g | [I-].[K+]
solvent | water | 400 ml | O | H2O
solvent | water | 140 ml | O | H2O
solvent | water | 200 ml | O | H2O
product | 4-bromo-2-ethyl-1-iodobenzene | 84.6 g | BrC1=CC(=C(C=C1)I)CC | C8H8BrI
